US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-1-naphthalenemethanamine hydrochloride (terbinafine)
To a solution of 1.77 g (10 mmol) of 1-chloromethylnaphthalene in 10 ml of dimethyl sulfoxide were added 1.88 g (10 mmol) of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine hydrochloride and 1.66 g (12 mmol) of potassium carbonate under ice cooling. The mixture was stirred for 16 hours at room temperature, poured into 200 ml of ethyl acetate, washed with 100 ml×2 of water, a mixture of 80 ml of water and 10 ml of 2N hydrochloric acid, and 50 ml of saturated sodium chloride aqueous solution respectively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to crystallize. The crystals were suspended in 10 ml of ethyl acetate, cooled, filtered and dried under reduced pressure to obtain 2.95 g (yield: 90%) of the above identified compound as off-white crystalline powder.

reactant | 1-chloromethylnaphthalene | 10 mmol, 1.77 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine hydrochloride | 10 mmol, 1.88 g | Cl.CC(C#C/C=C/CNC)(C)C
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-1-naphthalenemethanamine hydrochloride | yield: 90% | Cl.CC(C#C/C=C/CN(CC1=CC=CC2=CC=CC=C12)C)(C)C | InChI=1S/C21H25N.ClH/c1-21(2,3)15-8-5-9-16-22(4)17-19-13-10-12-18-11-6-7-14-20(18)19;/h5-7,9-14H,16-17H2,1-4H3;1H/b9-5+;
